US04968717
5-[(Phenethyl)methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile
29.5 g (0.1 mole) of α-isopropyl-α-(3-chloropropyl)-3,5-dimethoxyphenylacetonitrile and 13.5 g (0.1 mole) of N-methylphenethylamine were dissolved in 45 ml of hexamethylphosphorotriamide, and 30 g of powdered anhydrous potassium carbonate were added. The reaction mixture was heated at 80° C. for 4 hours and then cooled, after which 500 ml of water were added and the mixture was extracted twice with ether. The ether phase was washed several times with water and dried over potassium carbonate, and the ether was distilled off. The resulting base was converted to the hydrochloride. 34.8 g (81%) of a product of melting point 126°-127° C. were obtained.

reactant | α-isopropyl-α-(3-chloropropyl)-3,5-dimethoxyphenylacetonitrile | 0.1 mole, 29.5 g | C(C)(C)C(C#N)(CCCCl)C1=CC(=CC(=C1)OC)OC | C16H22ClNO2
reactant | N-methylphenethylamine | 0.1 mole, 13.5 g | CNCCC1=CC=CC=C1 | C9H13N
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 ml | O | H2O
reactant | hexamethylphosphorotriamide | 45 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 5-[(Phenethyl)methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile | 34.8 g, 81% | C(CC1=CC=CC=C1)CNCCCC(C#N)(C(C)C)C1=CC(=CC(=C1)OC)OC | C25H34N2O2
